US09034866B2
Synthesis of (±)-9-fluoro-10-(3-hydroxy-3-(pyridin-2-yl)but-1-yn-1-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide
9-fluoro-10-(3-hydroxy-3-(pyridin-2-yl)but-1-yn-1-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was prepared similarly according to General Procedure G with slight modifications. 10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was reacted with 2-(2-pyridyl)but-3-yn-2-ol to afford 7.5 mg of the titled compound (6.3% yield). M+1=403.1. 1H NMR (400 MHz, DMSO) δ 8.64 (d, J=7.6 Hz, 1H), 8.58 (d, J=4.6 Hz, 1H), 7.90-7.84 (m, 1H), 7.82 (s, 1H), 737 (d, J=7.9 Hz, 1H), 7.57 (br s, 1H), 7.38-7.32 (m, 1H), 7.29 (d, J=10.1 Hz, 1H), 7.11 (br s, 1H), 6.47 (s, 1H), 4.94-4.87 (m, 1H), 3.75-3.67 (m, 1H), 3.14-3.03 (m, 2H), 1.83 (s, 3H), 1.71-1.64 (m, 2H).

reactant | 10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C=C(N3)C(=O)N)C1)F | C14H11BrFN3O
reactant | 2-(2-pyridyl)but-3-yn-2-ol | N1=C(C=CC=C1)C(C)(C#C)O | C9H9NO
product | (±)-9-fluoro-10-(3-hydroxy-3-(pyridin-2-yl)but-1-yn-1-yl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | 7.5 mg, 6.3% yield | FC1=CC2=C(C=3N(C4CC2C4)C=C(N3)C(=O)N)C=C1C#CC(C)(C1=NC=CC=C1)O | C23H19FN4O2
